US05446146
i) Methyl 4-(2,3,4-trimethoxybenzyl)-1piperazinecarbodithioate (Com. No. 38)
In a nitrogen atmosphere, 2.0 g of 4-(2,3,4-trimethoxybenzyl)-1-piperazinecarbodithioic acid, 0.26 g of granular sodium hydroxide, and 3 ml of methanol were mixed, and stirred atroom temperature to yield a homogeneous reaction solution. To the solution was dropwise added under chilling with ice a solution of 0.39 ml of methyliodide in 2.4 ml of methanol. After the addition was complete, the reactionsolution was stirred for 2.5 hours at room temperature. The solvent was then distilled off under reduced pressure, and chloroform and water were added to the residue. The chloroform portion was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to leave 2.0 g of the desired compound as a white powder, yield 97.9%.

reactant | 4-(2,3,4-trimethoxybenzyl)-1-piperazinecarbodithioic acid | 2.0 g | COC1=C(CN2CCN(CC2)C(=S)S)C=CC(=C1OC)OC | C15H22N2O3S2
reactant | sodium hydroxide | 0.26 g | [OH-].[Na+]
reactant | methyliodide | 0.39 ml | CI | CH3I
solvent | methanol | 2.4 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | Methyl 4-(2,3,4-trimethoxybenzyl)-1piperazinecarbodithioate | 2.0 g, yield 97.9% | COC1=C(CN2CCN(CC2)C(=S)SC)C=CC(=C1OC)OC | C16H24N2O3S2
